US03983135
A mixture of 6.35 g (0.050 mole) of 1,3-dimethyl-2-iminoimidazolidin-4-one, 7.85 g (0.050 mole) of 3-chlorophenylisocyanate and 75 ml of dry tetrahydrofuran is stirred at room temperature for 4 hours. The solution is evaporated in vacuo and the residue is crystallized from acetonitrile. Two recrystallizations from acetonitrile - ether gives pure product, 1-(3-chlorophenyl)-3-(1,3-dimethyl-4-oxo-2-imidazolidinylidene)urea, m.p. 134°-137°C.

reactant | 1,3-dimethyl-2-iminoimidazolidin-4-one | 0.050 mole, 6.35 g | CN1C(N(C(C1)=O)C)=N | C5H9N3O
reactant | 3-chlorophenylisocyanate | 0.050 mole, 7.85 g | ClC=1C=C(C=CC1)N=C=O | C7H4ClNO
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 1-(3-chlorophenyl)-3-(1,3-dimethyl-4-oxo-2-imidazolidinylidene)urea | ClC=1C=C(C=CC1)NC(=O)N=C1N(CC(N1C)=O)C | C12H13ClN4O2
